US03937837
7-Acetoxy-4-oxo-2-methyl-4H-1-benzopyran-3-carbonitrile.
A mixture of 5 g of 2,4-dihydroxybenzoyl acetonitrile, 15 ml of pyridine and 7.5 ml of acetic anhydride was left overnight at room temperature. The next morning the crystals were filtered and recrystallized from ethanol, mp 140°-141° C.

reactant | 2,4-dihydroxybenzoyl acetonitrile | 5 g | OC1=C(C(=O)CC#N)C=CC(=C1)O | C9H7NO3
reactant | acetic anhydride | 7.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 7-Acetoxy-4-oxo-2-methyl-4H-1-benzopyran-3-carbonitrile | C(C)(=O)OC1=CC2=C(C(C(=C(O2)C)C#N)=O)C=C1 | C13H9NO4
